US06900318B1
4) 4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)ethyl)benzoyl Chloride Hydrochloride
110.2 g (0.4 mol) of 4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)ethyl)benzoic acid were suspended in 1.5 l of toluene, then 35 ml of thionyl chloride were added and the mixture was heated to 70° C. for 2 h. Then further 16 ml of thionyl chloride were added and heating was continued until the evolution of sulfur dioxide had ceased. The almost clear solution was evaporated to dryness to give 139.5 g of the crude title compound as a yellow powder. This product was directly used in the subsequent reaction.

reactant | 4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)ethyl)benzoic acid | 0.4 mol, 110.2 g | N1C(=NCCC1)NC(=O)CCC1=CC=C(C(=O)O)C=C1 | C14H17N3O3
reactant | thionyl chloride | 35 ml | S(=O)(Cl)Cl | Cl2OS
reactant | thionyl chloride | 16 ml | S(=O)(Cl)Cl | Cl2OS
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
product | 4-(2-(1,4,5,6-tetrahydropyrimidin-2-ylcarbamoyl)ethyl)benzoyl Chloride Hydrochloride | 139.5 g | Cl.N1C(=NCCC1)NC(=O)CCC1=CC=C(C(=O)Cl)C=C1 | InChI=1S/C14H16ClN3O2.ClH/c15-13(20)11-5-2-10(3-6-11)4-7-12(19)18-14-16-8-1-9-17-14;/h2-3,5-6H,1,4,7-9H2,(H2,16,17,18,19);1H
